US05905071
17g N-[2-(N-tert-Butyloxycarbonyl-O-tert-butyl-L-aspartyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-oleamide.
from N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide and N-tert-butyloxycarbonyl-O-tert-butyl-L-aspartic acid. Yield 27%. [α]D =-1.5° (c=0.55, dichloromethane).

reactant | N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide | N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C45H87N3O6
reactant | N-tert-butyloxycarbonyl-O-tert-butyl-L-aspartic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)C(=O)OC(C)(C)C | C13H23NO6
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(N-tert-Butyloxycarbonyl-O-tert-butyl-L-aspartyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-oleamide | Yield 27% | C(C)(C)(C)OC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C58H108N4O11
